*******************************************************************************
* 180nm SPICE Model Library
*******************************************************************************

.LIB TT
.include '180nm.pm'

** nMOS varactor model
.SUBCKT nmos_var ng nds lr=0.2 wr=0.4
** lr and wr in [meter] 
.param area='(lr*wr)*1e12'
.param pj='(lr+wr)*2*1e6'
.param Cgmin='(0.1822*pj+1.4809*area)*1e-15'
.param dCg='(-1*0.02472*pj+1.6923*area)*1e-15'
$.param dVgs=-0.161
.param dVgs=0.0
.param Vgnorm=0.538
cg ng nds 'Cgmin+dCg*(1.0+tanh((v(ng,nds)-dVgs)/Vgnorm))'
.ENDS $ nmos_var
*
** pMOS varactor model
.SUBCKT pmos_var ng nds lr=0.2 wr=0.4
** lr and wr in [meter] 
.param area='(lr*wr)*1e12'
.param pj='(lr+wr)*2*1e6'
.param Cgmin='(0.1822*pj+1.339*area)*1e-15'
.param dCg='(-1*0.02472*pj+1.767*area)*1e-15'
.param dVgs=0.282
.param Vgnorm=0.59
cg ng nds 'Cgmin+dCg*(1.0-tanh((v(ng,nds)-dVgs)/Vgnorm))'
.ENDS $ pmos_var


.ENDL
